US06924278B2
A mixture of (2R)-1-(3,5-dichlorobenzoyl)-2-(3,4-dimethylbenzyl)piperazine hydrochloride (400 mg) and 4-(4-chloro-2-butynyl)morpholine hydrochloride (223 mg) in dried acetonitrile (4.0 ml) was stirred at 50° C. in the presence of is powdered potassium carbonate (534 mg) and potassium iodide (32 mg). After 3 hours, the reaction mixture was filtered and the insoluble material on the filter was washed with acetonitrile. The filtrate and the washing were combined and then concentrated in vacuo. The resulting residue was purified by column chromatography on silica gel using a mixture of ethyl acetate and methanol (1.0:1) as eluent. The product obtained was dissolved in ethyl acetate and treated with 4N hydrogen chloride in ethyl acetate to give (2R)-1-(3,5-dichlorobenzoyl)-2-(3,4-dimethylbenzyl)-4-(4-morpholino-2-butynyl)piperazine dihydrochloride (221 mg).

reactant | (2R)-1-(3,5-dichlorobenzoyl)-2-(3,4-dimethylbenzyl)piperazine hydrochloride | 400 mg | Cl.ClC=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC(=C(C=C2)C)C)C=C(C1)Cl
reactant | 4-(4-chloro-2-butynyl)morpholine hydrochloride | 223 mg | Cl.ClCC#CCN1CCOCC1
reactant | potassium carbonate | 534 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 32 mg | [I-].[K+]
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | acetonitrile | 4.0 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)-1-(3,5-dichlorobenzoyl)-2-(3,4-dimethylbenzyl)-4-(4-morpholino-2-butynyl)piperazine dihydrochloride | 221 mg | Cl.Cl.ClC=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2CCOCC2)CC2=CC(=C(C=C2)C)C)C=C(C1)Cl | InChI=1S/C28H33Cl2N3O2.2ClH/c1-21-5-6-23(15-22(21)2)16-27-20-32(8-4-3-7-31-11-13-35-14-12-31)9-10-33(27)28(34)24-17-25(29)19-26(30)18-24;;/h5-6,15,17-19,27H,7-14,16,20H2,1-2H3;2*1H/t27-;;/m1../s1
